US08735434B2
3-(cyclobutylmethyl)-4,6-dihydrofuro[3,4-d]thiazol-2(3H)-imine
Commercially available dihydrofuran-3(2H)-one (Small Molecules Inc.), triethylamine, cyclobutylmethanamine hydrochloride (prepared from cyclobutanecarbonitrile as described in WO 2005075464), potassium thiocyanate (Aldrich) and iodine (EMD chemicals) were processed using the method described in Example 17A to afford the title compound. LC/MS (ESI+) m/z 211 (M+H)+.

reactant | dihydrofuran-3(2H)-one | O1CC(CC1)=O | C4H6O2
reactant | cyclobutylmethanamine hydrochloride | Cl.C1(CCC1)CN
reactant | potassium thiocyanate | [S-]C#N.[K+]
reactant | iodine | II | I2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(cyclobutylmethyl)-4,6-dihydrofuro[3,4-d]thiazol-2(3H)-imine | C1(CCC1)CN1C(SC2=C1COC2)=N | C10H14N2OS
